US07173129B2
4-{3E-[2,4-Dimethoxy-5-(1-methyl-1H-indol-2-yl)phenyl]acryloyl}-N-methoxybenzenesulfonamide
The title compound was prepared in an analogous way as Ex-1 using 4-acetyl-N-methoxy-benzenesulfonamide (Ex-30A) and 2,4-dimethoxy-5-(1-methyl-1H-indol-2-yl)benzaldehyde (Ex-15A), 94% yield, yellow solid, mp 214–216° C. 1H-NMR (300 MHz, CDCl3) δ 8.17 (d, J=16 Hz, 1H), 8.11 (d, J=8 Hz, 2H), 8.03 (d, J=8 Hz, 2H), 7.68 (s, 1H), 7.64 (d, J=7 Hz, 1H), 7.48 (d, J=16 Hz, 1H), 7.36 (d, J=8 Hz, 1H), 7.25–7.26 (m, 1H), 7.11–7.16 (m, 2H), 6.59 (s, 1H), 6.50 (s, 1H), 4.03 (s, 3H) 3.90 (s, 3H), 3.84 (s, 3H), 3.58 (s, 3H). MS m/z: 506 ([M]+, 30%), 476 (100%).

reactant | 4-acetyl-N-methoxy-benzenesulfonamide | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)NOC | C9H11NO4S
reactant | 2,4-dimethoxy-5-(1-methyl-1H-indol-2-yl)benzaldehyde | COC1=C(C=O)C=C(C(=C1)OC)C=1N(C2=CC=CC=C2C1)C | C18H17NO3
product | 4-{3E-[2,4-Dimethoxy-5-(1-methyl-1H-indol-2-yl)phenyl]acryloyl}-N-methoxybenzenesulfonamide | 94% yield | COC1=C(C=C(C(=C1)OC)C=1N(C2=CC=CC=C2C1)C)/C=C/C(=O)C1=CC=C(C=C1)S(=O)(=O)NOC | C27H26N2O6S
